US04021564
PREPARATION 15: 4-(p-FLUOROBENZOYL)-4-HYDROXYPIPERIDINE HYDROCHLORIDE (VII) (Cc)
To 27.9 grams (0.1 mole) of 4-acetoxy-4-(p-fluorobenzoyl)-1-methylpiperidine in 200 ml. of benzene was added 27.1 (0.25 mole) of ethyl chloroformate. The mixture was refluxed for 48 hours. The mixture was extracted with H2O, the organic solution was dried (MgSO4) and filtered. The filtrate was concentrated. To the resulting oil was added 250 ml. of 6 Normal HCl and the mixture was refluxed for seventy-two hours. Most of the water was removed under reduced pressure. Ethanol was added and the solution cooled. The solid which precipitated was collected by filtration and recrystallized from ethanol giving eighteen grams of 4-(p-fluorobenzoyl)-4-hydroxypiperidine hydrochloride. Melting point 241°-243° C.

reactant | 4-acetoxy-4-(p-fluorobenzoyl)-1-methylpiperidine | 0.1 mole, 27.9 grams | C(C)(=O)OC1(CCN(CC1)C)C(C1=CC=C(C=C1)F)=O | C15H18FNO3
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-(p-FLUOROBENZOYL)-4-HYDROXYPIPERIDINE HYDROCHLORIDE | Cl.FC1=CC=C(C(=O)C2(CCNCC2)O)C=C1 | InChI=1S/C12H14FNO2.ClH/c13-10-3-1-9(2-4-10)11(15)12(16)5-7-14-8-6-12;/h1-4,14,16H,5-8H2;1H
